US07262212B2
4-(Trifluoromethyl)benzoyl chloride (1.5 ml, 9.89 mmol) was added to a solution of 4-hydroxypiperidine (1 g, 9.89 mmol) and triethylamine (1.7 ml, 11.9 mmol) in methylene chloride (20 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with water, saturated sodium bicarbonate aqueous solution and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/acetone=2/1) to afford 1-(4-trifluoromethylbenzoyl)-4-hydroxypiperidine (2.07 g, yield 77%) as a colorless crystalline powder.

reactant | 4-(Trifluoromethyl)benzoyl chloride | 9.89 mmol, 1.5 ml | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 4-hydroxypiperidine | 9.89 mmol, 1 g | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 11.9 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-trifluoromethylbenzoyl)-4-hydroxypiperidine | 2.07 g, yield 77% | FC(C1=CC=C(C(=O)N2CCC(CC2)O)C=C1)(F)F | C13H14F3NO2
